US07144896B2
Step 2: Quinoline 3
To a solution of the 6-isopropyl-8-(3-methylsulfanyl-phenyl)-quinoline from the previous Step 1 (0.84 g) in MeOH (0.35M) at 0° C. was added a solution of Oxone (0.5 eq) in water (0.18M). The resulting mixture was stirred for 30 min, then poured in saturated aqueous NaHCO3 and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. The residual oil was dissolved in TFAA (0.2M), stirred at 40° C. for 30 min and finally concentrated. The residual oil was dissolved in excess NEt3:MeOH (1:1) and concentrated. The operation was repeated twice to afford the title compound as a yellow oil which was used as such.

reactant | 6-isopropyl-8-(3-methylsulfanyl-phenyl)-quinoline | C(C)(C)C=1C=C2C=CC=NC2=C(C1)C1=CC(=CC=C1)SC | C19H19NS
reactant | Oxone | 0.5 eq | OOS(=O)[O-].[K+]
solvent | MeOH | 0.35M | CO | CH4O
solvent | water | 0.18M | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
